### PR TITLE
[Merged by Bors] - feat: prove equality of `Nat.bitwise` and `Nat.bitwise'`

### PR DESCRIPTION
**Pull request by alexkeizer**
This PR proves that `Nat.bitwise` (from core) and `Nat.bitwise'` (from mathlib) are equal

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

This proof has been extracted from #5920, and follows the advice from https://github.com/leanprover-community/mathlib4/pull/5920#discussion_r1321066176

### CODE REVIEW

File: Mathlib/Data/Nat/Bitwise.lean [hunk 1]
```diff
@@ -318,4 +319,58 @@ theorem lt_lxor'_cases {a b c : ℕ} (h : a < lxor' b c) : lxor' a c < b ∨ lxo
...
+    div2 x = 0 → x = 0 ∨ x = 1 := by
+  intro h
+  rcases x with ⟨⟩ | ⟨⟩ | x
+  next => apply Or.inl rfl
+  next => apply Or.inr rfl
+  next =>
+    rw[div2_succ_succ] at h
+    contradiction
+
+lemma bitwise'_bit' {f : Bool → Bool → Bool} (a m b n)
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Bitwise.lean:337]: Does `bitwise'_bit` already exist?

Can you write the types of `a m b n` explicitly?

File: Mathlib/Data/Nat/Bitwise.lean [hunk 2]
```diff
@@ -318,4 +319,58 @@ theorem lt_lxor'_cases {a b c : ℕ} (h : a < lxor' b c) : lxor' a c < b ∨ lxo
...
+
+lemma div2_eq_zero {x : ℕ} :
+    div2 x = 0 → x = 0 ∨ x = 1 := by
+  intro h
+  rcases x with ⟨⟩ | ⟨⟩ | x
+  next => apply Or.inl rfl
+  next => apply Or.inr rfl
+  next =>
+    rw[div2_succ_succ] at h
+    contradiction
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Bitwise.lean:335]: Instead of using `next`, can you use `\.` markers for each goal?

File: Mathlib/Data/Nat/Bitwise.lean [hunk 3]
```diff
@@ -318,4 +319,58 @@ theorem lt_lxor'_cases {a b c : ℕ} (h : a < lxor' b c) : lxor' a c < b ∨ lxo
   (or_iff_right fun h' => (h.asymm h').elim).1 <| lxor'_trichotomy h.ne
 #align nat.lt_lxor_cases Nat.lt_lxor'_cases
 
+lemma div2_succ_succ (x) :
+    div2 (x + 2) = (div2 x) + 1 := by
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Bitwise.lean:323]:
```suggestion
lemma div2_add_two (x) :
    div2 (x + 2) = div2 x + 1 := by
``
because `x + 2` is not syntactically `succ (succ x)`

File: Mathlib/Data/Nat/Bitwise.lean [hunk 4]
```diff
@@ -318,4 +319,58 @@ theorem lt_lxor'_cases {a b c : ℕ} (h : a < lxor' b c) : lxor' a c < b ∨ lxo
...
+    bitwise' f (bit a m) (bit b n) = bit (f a b) (bitwise' f m n) := by
+  unfold bitwise'
+  rw [binaryRec_eq', binaryRec_eq']
+  · apply Or.inr hbn
+  · apply Or.inr ham
+
+lemma bitwise_eq_bitwise' (f) : bitwise f = bitwise' f := by
+  funext x y
+  have ⟨k, hk⟩ : ∃ k, k = x+y := by use x+y
+  induction' k using Nat.strongInductionOn with k ih generalizing x y
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Bitwise.lean:348]: Does something like this work, and save the need for the `have`?
```suggestion
  induction' h : x + y using Nat.strongInductionOn with k ih generalizing x y
```

File: Mathlib/Data/Nat/Bitwise.lean (hunk 1 above)
Comment (alexkeizer) [reply Mathlib/Data/Nat/Bitwise.lean:336]: `bitwise'_bit` exists, but has `f false false = false` as assumption, we replace that assumption with `(ham : m = 0 → a = true)` and `(hbn : n = 0 → b = true)`.

File: Mathlib/Data/Nat/Bitwise.lean (hunk 4 above)
Comment (alexkeizer) [reply Mathlib/Data/Nat/Bitwise.lean]: It does

File: Mathlib/Data/Nat/Bitwise.lean [hunk 5]
```diff
@@ -318,4 +319,55 @@ theorem lt_lxor'_cases {a b c : ℕ} (h : a < lxor' b c) : lxor' a c < b ∨ lxo
...
+    bitwise' f (bit a m) (bit b n) = bit (f a b) (bitwise' f m n) := by
+  rw [bitwise', binaryRec_eq', binaryRec_eq']
+  · apply Or.inr hbn
+  · apply Or.inr ham
+
+lemma bitwise_eq_bitwise' (f) : bitwise f = bitwise' f := by
+  funext x y
+  induction' hk : x + y using Nat.strongInductionOn with k ih generalizing x y
+  by_cases h1 : x = 0 <;> by_cases h2 : y = 0
+  · unfold bitwise
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Bitwise.lean:347]: You shouldn't be unfolding `bitwise` here: if you need to unfold it, that means a simpler lemma (where `unfold` is fine) is missing.

Comment (eric-wieser) [reply Mathlib/Data/Nat/Bitwise.lean:347]: Which is to say: we should probably have the lemmas:
* `bitwise_zero_left : bitwise f 0 m = if f false true then m else 0`
* `bitwise_zero_right : bitwise f n 0 = if f true false then n else 0
* `bitwise_of_ne_zero (n \ne 0) (m \ne 0) : ...`

Comment (alexkeizer) [reply Mathlib/Data/Nat/Bitwise.lean]: I've cleaned up the proof. Turns out we also needed `bitwise'_zero_right : bitwise' f m 0 = if f true false then m else 0`.
This result exists in `Mathlib.Init.Data.Nat.Bitwise`, but it has `f false false = false` as an assumption.
I've added an alternative theorem with a proof that does not need this assumption, but instead relies on `eq_mpr_eq_cast` from `Mathlib.Logic.Basic`.

This duplication seems undesirable, but my understanding is that `Init` files sould not depend on non-`Init` files.
Then again, do we even need this result in `Init.Data.Nat.Bitwise`? I would guess it's a historic artifact from lean3 where these definitions were the main way to interact with `Nat`s.

Comment (eric-wieser) [reply Mathlib/Data/Nat/Bitwise.lean]: I think most of the `Mathlib.Init` files are vestigial from lean3, and moving things out of them is totally fine

**Comment by alexkeizer** [comment]
The proofs have now been cleaned up, and the linter should be happy.

I also went a bit further and completely removed `Nat.bitwise'` in #7451

**Comment by ChrisHughes24** [comment]
maintainer merge

File: Mathlib/Data/Nat/Bitwise.lean [hunk 6]
```diff
@@ -44,6 +45,112 @@ namespace Nat
...
+    bitwise' f m 0 = bif f true false then m else 0 := by
+  unfold bitwise' binaryRec
+  simp only [Bool.cond_eq_ite, eq_mpr_eq_cast, cast_eq, dite_eq_ite]
+  split_ifs with hx <;> simp only [bit_decomp, binaryRec_zero, hx]
+
+lemma bitwise_zero : bitwise f 0 0 = 0 := by
+  simp only [bitwise_zero_right, ite_self]
+
+@[simp]
+lemma bitwise_succ {n m : Nat} :
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Bitwise.lean:80]: This statement looks pretty awkward to me, especially as a `simp` lemma. I think taking `h : n ≠ 0` would be better?

Comment (alexkeizer) [reply Mathlib/Data/Nat/Bitwise.lean:80]: I changed it to be in terms of `succ` exactly because it felt cleaner to have a `simp` lemma without side-conditions, but you are right that the actual statement is not very clean. I'll trust your judgement on which one is better

File: Mathlib/Data/Nat/Bitwise.lean [hunk 7]
```diff
@@ -44,6 +45,116 @@ namespace Nat
...
+    bitwise' f m 0 = bif f true false then m else 0 := by
+  unfold bitwise' binaryRec
+  simp only [Bool.cond_eq_ite, eq_mpr_eq_cast, cast_eq, dite_eq_ite]
+  split_ifs with hx <;> simp only [bit_decomp, binaryRec_zero, hx]
+
+lemma bitwise_zero : bitwise f 0 0 = 0 := by
+  simp only [bitwise_zero_right, ite_self]
+
+@[simp]
+lemma bitwise_ne_zero {n m : Nat} (hn : n ≠ 0) (hm : m ≠ 0) :
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Bitwise.lean:80]:
```suggestion
lemma bitwise_of_ne_zero {n m : Nat} (hn : n ≠ 0) (hm : m ≠ 0) :
```
Is the naming convention; your name suggests the *conclusion* is `≠ 0`

Comment (alexkeizer) [reply Mathlib/Data/Nat/Bitwise.lean]: Fixed

File: Mathlib/Data/Nat/Bitwise.lean [hunk 8]
```diff
@@ -44,6 +45,116 @@ namespace Nat
...
+  have mod_two_iff_bod x : (x % 2 = 1 : Bool) = bodd x := by
+    simp [mod_two_of_bodd, cond]; cases bodd x <;> rfl
+  simp only [hn, hm, add_eq_zero_iff, and_false, ite_false, mod_two_iff_bod]
+  split_ifs <;> rfl
+
+@[simp]
+lemma bitwise'_of_ne_zero {n m : Nat} (hn : n ≠ 0) (hm : m ≠ 0) :
+    bitwise' f n m =
+    bitwise' f (div2 n) (div2 m) + bitwise' f (div2 n) (div2 m)
+      + if f (bodd n) (bodd m) then 1 else 0 := by
```
Comment (Vierkantor) [inline Mathlib/Data/Nat/Bitwise.lean:94]: Similarly:
```suggestion
lemma bitwise'_of_ne_zero {n m : Nat} (hn : n ≠ 0) (hm : m ≠ 0) :
    bitwise' f n m =
    bit (f (bodd n)) (f (bodd m)) (bitwise' f (n / 2) (m / 2)) := by
```
(Also replacing `div2` with `. / 2`, following [Nat.div2_val](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Init/Data/Nat/Bitwise.html#Nat.div2_val).)

**Review by Vierkantor — APPROVED** [review]
Nice results!

bors d+

File: Mathlib/Data/Nat/Bitwise.lean (hunk 8 above)
Comment (eric-wieser) [reply Mathlib/Data/Nat/Bitwise.lean:94]: Are you suggesting that `div2` should be `simp` too?

Comment (Vierkantor) [reply Mathlib/Data/Nat/Bitwise.lean:94]: I'm inclined to say yes, but perhaps the optimizer (`csimp` right?) should go the other way.

Comment (eric-wieser) [reply Mathlib/Data/Nat/Bitwise.lean:94]: `csimp` can only turn `foo a b` into `bar a b`, not `foo a b` into `bar_a b`.

File: Mathlib/Data/Nat/Bitwise.lean [hunk 9]
```diff
@@ -44,6 +45,116 @@ namespace Nat
...
+lemma bitwise'_bit' {f : Bool → Bool → Bool} (a : Bool) (m : Nat) (b : Bool) (n : Nat)
+    (ham : m = 0 → a = true) (hbn : n = 0 → b = true) :
+    bitwise' f (bit a m) (bit b n) = bit (f a b) (bitwise' f m n) := by
+  rw [bitwise', binaryRec_eq', binaryRec_eq']
+  · apply Or.inr hbn
+  · apply Or.inr ham
+
+@[simp]
+lemma bitwise_zero_left {m : Nat} : bitwise f 0 m = if f false true then m else 0 := by
+  rfl
```
[the remark this answers is not in the document]
Comment (alexkeizer) [reply Mathlib/Data/Nat/Bitwise.lean:60]: I default to `by rfl` because it's [supposedly faster](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/What.20is.20the.20elaborator.20doing.20in.20this.20example) than `rfl` as a term, but the latter would also work.

[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Data/Nat/Bitwise.lean:60]: You should prefer `rfl` unless you have evidence that the speed matters (ie, the file becomes painful to edit)

File: Mathlib/Data/Nat/Bitwise.lean (hunk 8 above)
Comment (alexkeizer) [reply Mathlib/Data/Nat/Bitwise.lean:94]: Whether `div2_val` is or isn't `simp` does not influence the optimizer, right? So I guess that is orthogonal to the current PR.
Should I mark `div2_val` as `simp` here, or leave that to a different PR with more thorough discussion/review? I'd like to merge this one ASAP

Comment (eric-wieser) [reply Mathlib/Data/Nat/Bitwise.lean:94]: I think you should make the change Anne suggested above, and make `div2_val` simp if it makes things easier for you

File: Mathlib/Data/Nat/Bitwise.lean [hunk 10]
```diff
@@ -44,6 +45,116 @@ namespace Nat
...
+  split_ifs with hx <;> simp only [bit_decomp, binaryRec_zero, hx]
+
+lemma bitwise_zero : bitwise f 0 0 = 0 := by
+  simp only [bitwise_zero_right, ite_self]
+
+@[simp]
+lemma bitwise_of_ne_zero {n m : Nat} (hn : n ≠ 0) (hm : m ≠ 0) :
+    bitwise f n m =
+    bitwise f (n / 2) (m / 2) + bitwise f (n / 2) (m / 2)
+      + if f (bodd n) (bodd m) then 1 else 0 := by
```
[the remark this answers is not in the document]
Comment (alexkeizer) [reply Mathlib/Data/Nat/Bitwise.lean:83]: The motivation was that `bitwise` is not implemented in terms of `bit`, but instead as
```
    let n' := n / 2
    let m' := m / 2
    let b₁ := n % 2 = 1
    let b₂ := m % 2 = 1
    let r  := bitwise f n' m'
    if f b₁ b₂ then
      r+r+1
    else
      r+r
```

However, that should be equal to just `bit`, and I do agree that reads nicer, so I'll change it
